US04535073
A mixture of 5.1 grams of diisopropyl 1-(3-nitrobenzylidene)-acetonylphosphonate and 2.69 grams of 2-n-propoxyethyl 3-aminocrotonate was added to 20 ml of isopropanol and the mixture was heated to reflux for eight hours with stirring. The reaction mixture was evaporated in vacuo, to the residue was added ether to crystallize, the crystals were collected by filtration, and recrystallized from a mixture of ethyl acetate and ether to afford 5.38 grams of 2-n-propoxyethyl 2,6-dimethyl-4-(3-nitrophenyl)-5-diisopropoxyphosphinyl-1,4-dihydropyridine-3-carboxylate, pale yellow crystals, melting point 125°-6° C. Yield 72%.

reactant | diisopropyl 1-(3-nitrobenzylidene)-acetonylphosphonate | 5.1 grams | [N+](=O)([O-])C=1C=C(C=C(C(=O)C)P(OC(C)C)(OC(C)C)=O)C=CC1 | C16H22NO6P
reactant | 2-n-propoxyethyl 3-aminocrotonate | 2.69 grams | N\C(=C/C(=O)OCCOCCC)\C | C9H17NO3
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 2-n-propoxyethyl 2,6-dimethyl-4-(3-nitrophenyl)-5-diisopropoxyphosphinyl-1,4-dihydropyridine-3-carboxylate | 5.38 grams, Yield 72% | CC=1NC(=C(C(C1C(=O)OCCOCCC)C1=CC(=CC=C1)[N+](=O)[O-])P(=O)(OC(C)C)OC(C)C)C | C25H37N2O8P
